US06806265B2
a) 2-Methyl-4-[1-(triphenylmethyl)-1H-imidazol-4-yl]phenol
A solution of 2-bromo-1-(4-hydroxy-3-methylphenyl)ethanone (400 mg, 1.75 mmol) in formamide (10 mL) was stirred at 190° C. for 5 h. The excess formamide was distilled under reduced pressure. The residue was taken in EtOAc (50 mL) and the resulting solution was successively washed with pH 7.0 buffer solution (10 mL), water (10 mL) and brine (10 mL) then was dried (MgSO4), filtered and concentrated under reduced pressure. A solution of the residue, Et3N (0.88 g, 8.73 mmol) and triphenylmethyl chloride (584 mg, 2.10 mmol) in DMF (10 mL) was stirred at 60° C. for 3 h. The reaction mixture was cooled to 25° C., acidified with aqueous 1.0 N HCl solution and diluted with EtOAc (200 mL). The resulting mixture was successively washed with water (3×50 mL) and brine (50 mL), then dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (Hexane:EtOAc, 1:1) to yield the title compound (514 mg, 71% yield).

reactant | 2-bromo-1-(4-hydroxy-3-methylphenyl)ethanone | 1.75 mmol, 400 mg | BrCC(=O)C1=CC(=C(C=C1)O)C | C9H9BrO2
reactant | Et3N | 8.73 mmol, 0.88 g | CCN(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 2.10 mmol, 584 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | HCl | 1.0 N | Cl | ClH
reactant | formamide | 10 mL | C(=O)N | CH3NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-Methyl-4-[1-(triphenylmethyl)-1H-imidazol-4-yl]phenol | 514 mg, 71% yield | CC1=C(C=CC(=C1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C29H24N2O
